US04433152
A mixture of 4.0 g of 1-amidino-4-piperidinepropionic acid hydrochloride, 2.6 g of o-acetaminophenol was dissolved in 40 ml of dry pyridine. To the solution was added with ice-cooling and stirring 3.5 g of dicyclohexylcarbodiimide, and the resulting mixture was allowed to stand at room temperature for 44 hours. After removal of any insoluble materials, the solvent was removed under reduced pressure. The residue was washed with ethyl acetate, and dry ether was then added to the residue to give crystals. The crystals were washed with ether several times, then with warm dichloromethane and finally with ethyl acetate. Dry ether was added to the crystals, and the mixture was evaporated to dryness to obtain 5.8 g (yield: 92.7%) of o-acetaminophenyl 1-amidino-4-piperidinepropionate hydrochloride as hygroscopic crystals.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 4.0 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | o-acetaminophenol | 2.6 g | N(C(=O)C)C1=C(C=CC=C1)O | C8H9NO2
reactant | dicyclohexylcarbodiimide | 3.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | o-acetaminophenyl 1-amidino-4-piperidinepropionate hydrochloride | 5.8 g, yield: 92.7% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=C(C=CC=C1)NC(=O)C | InChI=1S/C17H24N4O3.ClH/c1-12(22)20-14-4-2-3-5-15(14)24-16(23)7-6-13-8-10-21(11-9-13)17(18)19;/h2-5,13H,6-11H2,1H3,(H3,18,19)(H,20,22);1H
